US06528525B1
2-(3,5-Difluorophenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid (exemplification No. 138-168 compound)
In a similar manner to that described in Example 2, ethyl 2-(3,5-difluorophenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate (410 mg), which is the product of Example 138, was reacted with aqueous sodium hydroxide solution (1N, 2.00 ml) and the reaction mixture was treated to give the title compound (350 mg) as a white powder.

reactant | ethyl 2-(3,5-difluorophenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionate | 410 mg | FC=1C=C(OC(C(=O)OCC)CC2=CC=C(C=C2)OCCNC(C2=CC=C(C=C2)C2=NC=CC=C2)=O)C=C(C1)F | C31H28F2N2O5
reactant | sodium hydroxide | 1N, 2.00 ml | [OH-].[Na+]
product | 2-(3,5-Difluorophenoxy)-3-[4-[2-(4-pyridine-2-ylbenzoylamino)ethoxy]phenyl]propionic acid | 350 mg | FC=1C=C(OC(C(=O)O)CC2=CC=C(C=C2)OCCNC(C2=CC=C(C=C2)C2=NC=CC=C2)=O)C=C(C1)F | C29H24F2N2O5
